US06413657B1
A mixture of 9.2 g (38 mmol) of 9H-tribenz[b,d,f]azepine (synthesized in accordance with J. Org. Chem., vol. 56, p. 3906 (1991)), 44.8 g (190 mmol) of 1,4-dibromobenzene, 5.6 g (100 mmol) of potassium hydroxide, 1.6 g (25 mmol) of copper powder, and 50 ml of decalin was heated at an external temperature of 200° C. for 36 hours in a nitrogen stream while stirring. The reaction mixture was cooled nearly to room temperature, chloroform was added thereto, followed by filtration using Celite to remove the insoluble matter. The filtrate was concentrated. To remove decalin, n-hexane was added to the residue, followed by filtration. The filter cake was purified by silica gel column chromatography to give 3.8 g (25%) of 9-(4-bromophenyl)-9H-tribenz[b,d,f]azepine.

reactant | 9H-tribenz[b,d,f]azepine | 38 mmol, 9.2 g | C1=CC=CC=2C3=C(NC4=C(C21)C=CC=C4)C=CC=C3 | C18H13N
reactant | 1,4-dibromobenzene | 190 mmol, 44.8 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | potassium hydroxide | 100 mmol, 5.6 g | [OH-].[K+]
reactant | decalin | 50 ml | C1CCCC2CCCCC12 | C10H18
catalyst | copper | 25 mmol, 1.6 g | [Cu] | Cu
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 9-(4-bromophenyl)-9H-tribenz[b,d,f]azepine | 3.8 g, 25% | BrC1=CC=C(C=C1)N1C2=C(C3=C(C4=C1C=CC=C4)C=CC=C3)C=CC=C2 | C24H16BrN
